US04888444
O-(3,5-Di-tert-butyl-4-hydroxybenzoyl)-N,N-dibenzylhydroxylamine
To a solution of 27.9 g of dibenzylhydroxylamine and 10.3 gof pyridine in 100 ml of methylene chloride is added a solution of 39.0 g of 3,5-di-tert-butyl-4-hydroxybenzoyl chloride in 100 ml of methylene chloride. After stirring the mixture at room temperature for 24 hours, the reaction mixture is washed with 10% aqueous hydrochloric acid, water, brine and dried. Evaporation followed by crystallization of the residue from heptane affords the title compound as a white solid: mp 90°-92° C.

reactant | dibenzylhydroxylamine | 27.9 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 3,5-di-tert-butyl-4-hydroxybenzoyl chloride | 39.0 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | O-(3,5-Di-tert-butyl-4-hydroxybenzoyl)-N,N-dibenzylhydroxylamine | C(C)(C)(C)C=1C=C(C(=O)ON(CC2=CC=CC=C2)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C | C29H35NO3
